US06974582B2
To 1,106 g of L-arginine were added 6,919 g of isopropyl alcohol and 2,964 g of water. Thereto were concurrently added dropwise 1,522 g of lauroyl chloride (manufactured by Nippon Oil and Fats Co., Ltd.) and 27 wt % NaOH aqueous solution over a period of 2 hours with the pH being maintained at 10.5 to 11.5 and the reaction temperature being maintained at 10 to 13° C. After 1 hour of aging, the reaction mixture was warmed to 50° C. and adjusted to pH 3.8 by adding concentrated hydrochloric acid to dissolve the reaction product completely. Thereafter, the pH was adjusted to 6.0 by adding 27 wt % NaOH aqueous solution to precipitate crystals and the resulting slurry was gradually cooled to 10° C. with stirring. When the slurry was cooled to 10° C., the crystals were collected by filtration and washed with 10 kg of water and 4.4 kg of isopropyl alcohol, successively. The resulting washed crystals were dried under reduced pressure to obtain 2,081 g of mono-Nα-lauroyl-L-arginine as flake-shaped crystals (yield 92.3%).

reactant | L-arginine | 1,106 g | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | lauroyl chloride | 1,522 g | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | NaOH | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 2,964 g | O | H2O
solvent | isopropyl alcohol | 6,919 g | C(C)(C)O | C3H8O
product | mono-Nα-lauroyl-L-arginine | 2,081 g, yield 92.3% | C(CCCCCCCCCCC)(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C18H36N4O3
